US08378104B2
Step B: trans-4-(4-{7-amino-2-[3,5-bis(trifluoromethyl)phenyl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)cyclohexanol (Title Compound)
A solution of 2-[3,5-bis(trifluoromethyl)phenyl]-4-[1-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine (104 mg) in THF (2 mL) was treated with tetra-n-butylammonium fluoride (2.7 M in water, 0.20 mL, 0.56 mmol) and stirred at RT overnight. The solution was diluted with EtOAc and washed with brine. The aqueous phase was extracted with EtOAc and the combined organic fractions were dried over sodium sulfate and concentrated. Purification of the residue by ISCO chromatography (0 to 5% 7 N NH3/MeOH:EtOAc) afforded 33 mg (35%) of the title compound as a yellow solid. 1H NMR (400 MHz, CD3OD): δ 1.48-1.60 (m, 2H) 2.01 (qd, J=12.7, 3.2 Hz, 2H) 2.10-2.26 (m, 4H) 3.73 (tt, J=10.9, 4.1 Hz, 1H) 4.26 (tt, J=11.9, 3.9 Hz, 1H) 7.88 (s, 1H) 7.91-7.94 (m, 2H) 8.00-8.03 (m, 1H) 8.12-8.15 (m, 1H) 8.67 (s, 2H); MS (ESI): 510.34 [M+H]+; HPLC tR=1.16 min (TOF: polar—3 min).

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-4-[1-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-amine | 104 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=CC=2C(=C(N=CC2C=2C=NN(C2)C2CCC(CC2)O[Si](C)(C)C(C)(C)C)N)O1)(F)F | C30H34F6N4O2Si
reactant | tetra-n-butylammonium fluoride | 0.56 mmol, 2.7 M, 0.20 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | trans-4-(4-{7-amino-2-[3,5-bis(trifluoromethyl)phenyl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)cyclohexanol | 33 mg, 35% | NC=1N=CC(=C2C1OC(=C2)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O | C24H20F6N4O2
